US09290485B2
To a solution of Methyl 2-methyl-1H-indole-5-carboxylate (1000 mg, 5.29 mmol) in THF (53 ml) KOtBu (723 mg, 6.44 mmol) was added and subsequently Iodomethane (1.05 ml, 16.81 mmol) was added at rt. The reaction mixture was stirred at it for 40 hours. The orange reaction mixture was quenched with water/brine and extracted twice with EA. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under vacuum to afford crude methyl 1,2-Dimethyl-1H-indole-5-carboxylate.

reactant | Methyl 2-methyl-1H-indole-5-carboxylate | 5.29 mmol, 1000 mg | CC=1NC2=CC=C(C=C2C1)C(=O)OC | C11H11NO2
reactant | THF | 6.44 mmol, 53 ml, 723 mg | C1CCOC1 | C4H8O
reactant | Iodomethane | 16.81 mmol, 1.05 ml | IC | CH3I
product | methyl 1,2-Dimethyl-1H-indole-5-carboxylate | CN1C(=CC2=CC(=CC=C12)C(=O)OC)C | C12H13NO2
